US06184225B2
A mixture of 4-chloro-6-methoxy-7-nitroquinazoline hydrochloride (784 mg, 2.8 mmol) and 2-fluoro-5-methoxycarbonyloxy-4-methylaniline (621 mg, 3.1 mmol), (prepared as described for the starting material in Example 26), in isopropanol (10 ml) was heated at reflux for 2 hours. The mixture was allowed to cool, the precipitated product collected by filtration, washed with isopropanol, ether and dried under vacuum to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-nitroquinazoline hydrochloride (1.12 g, 90%).

reactant | 4-chloro-6-methoxy-7-nitroquinazoline hydrochloride | 2.8 mmol, 784 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)[N+](=O)[O-]
reactant | 2-fluoro-5-methoxycarbonyloxy-4-methylaniline | 3.1 mmol, 621 mg | FC1=C(N)C=C(C(=C1)C)OC(=O)OC | C9H10FNO3
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-nitroquinazoline hydrochloride | 1.12 g, 90% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)[N+](=O)[O-])C=C(C(=C1)C)OC(=O)OC | InChI=1S/C18H15FN4O6.ClH/c1-9-4-11(19)13(7-15(9)29-18(24)28-3)22-17-10-5-16(27-2)14(23(25)26)6-12(10)20-8-21-17;/h4-8H,1-3H3,(H,20,21,22);1H
